* C:\Users\jagad\Desktop\ESIM\flashtypeADC\flashtypeADC.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/08/22 20:15:52

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  GND GND Net-_SC1-Pad2_ Net-_X1-Pad4_ Net-_SC5-Pad1_ GND avsdcmp_3v3_sky130		
X2  GND GND Net-_SC1-Pad1_ Net-_X1-Pad4_ GND GND avsdcmp_3v3_sky130		
X3  GND GND Net-_SC2-Pad1_ Net-_X1-Pad4_ Net-_U2-Pad4_ GND avsdcmp_3v3_sky130		
X4  GND GND Net-_SC3-Pad1_ Net-_X1-Pad4_ Net-_U2-Pad5_ GND avsdcmp_3v3_sky130		
X5  GND GND Net-_SC4-Pad1_ Net-_X1-Pad4_ GND GND avsdcmp_3v3_sky130		
U1  GND Net-_SC1-Pad2_ zener		
U2  GND Net-_SC5-Pad1_ GND Net-_U2-Pad4_ Net-_U2-Pad5_ GND Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ GND GND out2 out1 out0 dvsd_8_bit_priority_encoder		
X6  GND GND Net-_SC5-Pad1_ Net-_X6-Pad4_ Net-_U2-Pad7_ GND avsdcmp_3v3_sky130		
X7  GND GND GND Net-_X6-Pad4_ Net-_U2-Pad8_ GND avsdcmp_3v3_sky130		
X8  GND GND Net-_SC8-Pad1_ Net-_X6-Pad4_ Net-_U2-Pad9_ GND avsdcmp_3v3_sky130		
v2  GND GND DC		
v1  Net-_SC6-Pad2_ GND DC		
U4  out2 plot_db		
U5  out1 plot_db		
U3  out0 plot_db		
SC7  GND Net-_SC5-Pad1_ sky130_fd_pr__res_generic_m1		
SC8  Net-_SC8-Pad1_ GND sky130_fd_pr__res_generic_m1		
SC9  GND Net-_SC8-Pad1_ sky130_fd_pr__res_generic_m1		
SC6  Net-_SC1-Pad2_ Net-_SC6-Pad2_ sky130_fd_pr__res_generic_m1		
SC1  Net-_SC1-Pad1_ Net-_SC1-Pad2_ sky130_fd_pr__res_generic_m1		
SC2  Net-_SC2-Pad1_ Net-_SC1-Pad1_ sky130_fd_pr__res_generic_m1		
SC3  Net-_SC3-Pad1_ Net-_SC2-Pad1_ sky130_fd_pr__res_generic_m1		
SC4  Net-_SC4-Pad1_ Net-_SC3-Pad1_ sky130_fd_pr__res_generic_m1		
SC5  Net-_SC5-Pad1_ Net-_SC4-Pad1_ sky130_fd_pr__res_generic_m1		
scmode1  SKY130mode		

.end
