* c:\users\jagad\desktop\esim\flashtypeadc\flashtypeadc.cir

.include avsdcmp_3v3_sky130.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 gnd gnd net-_sc1-pad2_ net-_x1-pad4_ net-_sc5-pad1_ gnd avsdcmp_3v3_sky130
x2 gnd gnd net-_sc1-pad1_ net-_x1-pad4_ gnd gnd avsdcmp_3v3_sky130
x3 gnd gnd net-_sc2-pad1_ net-_x1-pad4_ net-_u2-pad4_ gnd avsdcmp_3v3_sky130
x4 gnd gnd net-_sc3-pad1_ net-_x1-pad4_ net-_u2-pad5_ gnd avsdcmp_3v3_sky130
x5 gnd gnd net-_sc4-pad1_ net-_x1-pad4_ gnd gnd avsdcmp_3v3_sky130
* u1  gnd net-_sc1-pad2_ zener
* u2  gnd net-_sc5-pad1_ gnd net-_u2-pad4_ net-_u2-pad5_ gnd net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ gnd gnd out2 out1 out0 dvsd_8_bit_priority_encoder
x6 gnd gnd net-_sc5-pad1_ net-_x6-pad4_ net-_u2-pad7_ gnd avsdcmp_3v3_sky130
x7 gnd gnd gnd net-_x6-pad4_ net-_u2-pad8_ gnd avsdcmp_3v3_sky130
x8 gnd gnd net-_sc8-pad1_ net-_x6-pad4_ net-_u2-pad9_ gnd avsdcmp_3v3_sky130
v2 gnd gnd  dc 5
v1 net-_sc6-pad2_ gnd  dc 5
* u4  out2 plot_db
* u5  out1 plot_db
* u3  out0 plot_db
xsc7 gnd net-_sc5-pad1_ sky130_fd_pr__res_generic_m1 L=0.85
xsc8 net-_sc8-pad1_ gnd sky130_fd_pr__res_generic_m1 L=0.85
xsc9 gnd net-_sc8-pad1_ sky130_fd_pr__res_generic_m1 L=0.85
xsc6 net-_sc1-pad2_ net-_sc6-pad2_ sky130_fd_pr__res_generic_m1 L=0.85
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ sky130_fd_pr__res_generic_m1 L=0.85
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ sky130_fd_pr__res_generic_m1 L=0.85
xsc3 net-_sc3-pad1_ net-_sc2-pad1_ sky130_fd_pr__res_generic_m1 
xsc4 net-_sc4-pad1_ net-_sc3-pad1_ sky130_fd_pr__res_generic_m1 
xsc5 net-_sc5-pad1_ net-_sc4-pad1_ sky130_fd_pr__res_generic_m1 
* s c m o d e
a1 gnd net-_sc1-pad2_ u1
a2 [gnd ] [net-_sc5-pad1_ gnd net-_u2-pad4_ net-_u2-pad5_ gnd net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ ] [gnd ] [gnd ] [out2 out1 out0 ] u2
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             dvsd_8_bit_priority_encoder, NgSpice Name: dvsd_8_bit_priority_encoder
.model u2 dvsd_8_bit_priority_encoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=15 ) 
.tran 0.1e-00 2e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(out2)
plot db(out1)
plot db(out0)
.endc
.end
